US04618358
N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenyl]-N-methylaminoethylphosphonous acid (compound 25)
A mixture of 3.2 g of monoethyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-N-methylaminoethylphosphonite and 10 g of trimethylbromosilane is stirred for 18 hours at 20° C. Excess trimethylbromosilane is removed by evaporation and the residue is then taken up in ethanol and the solution is evaporated, affording as residue a yellow oil which crystallises from ether. Yield: 2.14 g (71.3% of theory) of the title compound with a melting point of 161°-164° C.

reactant | monoethyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-N-methylaminoethylphosphonite | 3.2 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)N(C)CCP(OCC)[O-]
reactant | trimethylbromosilane | 10 g | C[Si](Br)(C)C | C3H9BrSi
product | N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)-phenyl]-N-methylaminoethylphosphonous acid | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)N(C)CCP(O)O | C16H15ClF3N2O5P
